* modified for LTspice - etech
*
.SUBCKT MC33262 FB CMP MULI CSI ZCD 0 DRVO VCC
.MODEL UVL_INPUT SW (VT=10.5 VH=2.5 RON=1 ROFF=1MEG
.MODEL IDET_INPUT SW (VT=1.5 VH=0.1 RON=1 ROFF=1MEG
.MODEL D33262A D  CJO=2P
.MODEL D33262 D  CJO=2P N=0.5
.MODEL Q33262 NPN (IS=15.2F NF=1 BF=105 VAF=98.5 IKF=.5
+ ISE=8.2P NE=2 BR=4 NR=1 VAR=20 IKR=.225 RE=.373 RB=1.49
+ RC=.149 XTB=1.5 CJE=35.5P CJC=12.2P TF=0.5N TR=10N)
*
S1 9 11 VCC 0 UVL_INPUT
BV1 9 0 V=2.5*V(startup)
R1 11 0 100K
E1 10 0 12 13 1
Q1 VCC 14 12 Q33262
Q2 15 16 0 Q33262
V3 10 17 0
R2 13 14 200
R3 17 16 1
B1 12 13 I=0.55M*V(18)*V(VCC)+I(V3)
R4 12 DRVO 10
R5 15 DRVO 10
C1 12 0 50P
BV4 19 0 V=16*V(startup)
D1 14 19 D33262A
B2  0 18 I=IF(V(50)<1, IF(V(11)>1, 2, -2), -2) Rpar=1
B3 CMP 0 I=20U/(1+EXP(V(26)))
X1 21 22 LIM33262 K=1 PLIM=100 NLIM=100
E2 21 0 9 1 20
BV5 24 0 V=6.4*V(startup)
D2 CMP 24 D33262
I1 0 CMP 10U
D3 25 20 D33262
D4 25 CMP D33262
C2 26 0 100P
R6 0 26 2.901K
L1 22 26 3.161M
X2 23 30 LIM33262 K=10 PLIM=16 NLIM=16
BV7 MULI 23 V=1.6*V(startup)
B4 32 0 V=V(30)/10+1.6
X3 27 31 LIM33262 K=10 PLIM=8.75 NLIM=8.75
BV8 CMP 27 V=2.875*V(startup)
B5 28 0 V=V(31)/10+2.875
B6 29 0 V=544M*(V(28)-1.98)*V(32)+41.7M*(V(28)-1.98)
X4 29 38 LIM33262 K=1 PLIM=1.55 NLIM=1.55
C3 34 0 10P IC=0
R9 CSI 34 20K
B7 0 36 I=IF(V(34)>V(33), 0, 2) Rpar=1
R10 37 45 40K
C4 45 0 10P
BVOFFSET 33 38 V=9M*V(startup)
B8 0 35 I=IF(V(45)>2.7, 0, 2) Rpar=1
BV9 39 46 V=32.5*V(startup)
D5 VCC 39 D33262A
BV10 40 0 V=1.2*V(startup)
D6 ZCD 43 D33262A
BV11 43 0 V=6*V(startup)
S2 0 42 49 0 IDET_INPUT
R13 42 9 100K
E3 37 0 FB 0 1
E4 57 0 ZCD 0 1
R14 57 49 32K
C5 49 0 10P IC=0
X5 47 48 50 51 RS33262  TD=1N
B9 0 47 I=IF(V(44)>1, IF(V(59)>1, 2, 0), 0) Rpar=1
B10 0 48 I=IF(V(47)>1, IF(V(54)>1, 0, IF(V(52)>1.667, 0, 2)), 2) Rpar=1
D7 52 9 D33262A
B11 52 0 I=IF(V(44)>1, IF(V(42)>1, IF(V(50)>1, IF(V(11)>1, -10U, 2M), 2M), 2M), 2M)
D8 0 52 D33262A
C6 52 0 2.8N IC=-0.673
BV13 53 0 V=2*(time>0)
B13 VCC 0 I=IF(V(11)<1, V(VCC)/28K, 81.6U*V(VCC)+7.847M)
R17 46 0 454
D9 40 ZCD D33262A
X6 44 54 60 59 RS33262  TD=1N
B14 0 44 I=IF(V(53)>1, IF(V(35)>1, IF(V(36)>1, 2, 0), 0), 0) Rpar=1
B16 0 54 I=IF(V(44)<1, 2, IF(V(52)>1.667, 0, V(42)) ) Rpar=1
BV14 20 0 V=1.7*V(startup)
I4 0 25 680U
VPWL startup 0 PWL 0 0 25u 1
.ENDS
****************
*
.SUBCKT LIM33262 1 2 Params: K=1 NLIM=1 PLIM=1
RIN 1 0 1E12
E1 3 0 0 1 {K}
RC1 2 4 1MEG
C1 2 4 1F IC=0
R1 3 4 1MEG
E2 2 0 0 4 1E6
VN 5 2 {NLIM-(0.0597)}
DN 4 5 DN
.MODEL DN D(IS=1E-12 N=.14319)
VP 2 6 {PLIM-(0.0597)}
DP 6 4 DN
.ENDS
*
.SUBCKT RS33262 2 3 4 5 Params: TD=1N
C1 11 0 10P
R3 10 8 {TD/6.9315P}
C3 8 0 10P
B1 0 10 I=IF(V(2)>1, IF(V(5)>1, 0, 2), 2) Rpar=1
B2 0 16 I=IF(V(3)>1, IF(V(4)>1, 0, 2), 2) Rpar=1
B5 0 4 I=IF(V(8)>1, 2, 0) Rpar=1
B6 0 5 I=IF(V(11)>1, 2, 0) Rpar=1
R1 16 11 {TD/6.9315P}
.ENDS
